* Z:\home\euler\5to-2020\me2\2020\git\simulations\AM_mod.asc
V1 Vc 0 SINE(0 2 1Meg)
V2 Vm 0 SINE(1 0.6 1k)
B2 out 0 V=V(Vc)*V(Vm)
.tran 5m
.backanno
.end
