* Z:\home\euler\5to-2020\me2\2020\git\LTspice simulations\Sweep Generator\Sweep_Generator.asc
A1 in N003 0 0 0 0 N001 0 MODULATOR mark=1Meg space=0
V1 in 0 PWL(0 0 20m 1)
V2 N003 0 1
R1 N002 N001 5k
L1 N002 0 0.1m
C1 N002 0 1n
.tran 20m
.backanno
.end
