* Z:\home\euler\5to-2020\me2\2020\git\LTspice simulations\Sweep Generator\Sweep_LTspice.asc
R1 N002 N001 10k
L1 N002 0 0.1m
C1 N002 0 1n
V1 N001 0 AC 1
.ac lin 100 1 1Meg
.backanno
.end
